US05919807
a) 4-Chloro-N-(2,4-dimethoxy-phenyl)-phenylacetamide
To 3.56 g (20 mmol) of 2,4-dimethoxyaniline and 2.53 g (25 mmol) of triethylamine in 50 ml of methylene chloride are added dropwise, whilst cooling with ice, 3.97 g (21 mmol) of 4-chlorophenylacetyl chloride. The mixture is stirred for a further hour at ambient temperature, added to dilute hydrochloric acid and extracted with methylene chloride. The extracts are dried and evaporated down. The evaporation residue is triturated with petroleum ether and suction filtered. Yield: 5.2 g (85.0% of theory), Melting point: 134-135° C.

reactant | 2,4-dimethoxyaniline | 20 mmol, 3.56 g | COC1=C(N)C=CC(=C1)OC | C8H11NO2
reactant | triethylamine | 25 mmol, 2.53 g | C(C)N(CC)CC | C6H15N
reactant | 4-chlorophenylacetyl chloride | 21 mmol, 3.97 g | ClC1=CC=C(C=C1)CC(=O)Cl | C8H6Cl2O
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-Chloro-N-(2,4-dimethoxy-phenyl)-phenylacetamide | ClC1=CC=C(C=C1)CC(=O)NC1=C(C=C(C=C1)OC)OC | C16H16ClNO3
